Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin / azithromycin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ F with a history of hemochromatosis presenting with
1 day of abdominal pain, n/v.

Pt states that she was out at dinner last night when she
developed sudden onset diffuse crampy abdominal pain associated
with several episodes of watery diarrhea and NBNB vomiting. 
States she also had chills but no recorded fever.   Denies SOB,
CP, rash, or urinary symptoms.  No prior similar symptoms, no
known food-borne exposures.  No recent travel.

Of note, pt with hemochromatosis that was diagnosed several 
years
ago when she had a w/u for anemia that revealed high iron 
levels,
she otherwise does not have known complications related to this. 

She was also evaluated by GI for one episode of rectal bleeding
and had a recent flex sig that showed internal hemorrhoids that
were possibly the source of bleeding.

In the ED, VS: 97.8, 84, 106/67, 16, 100% RA
Exam notable for RUQ tenderness
Labs notable for WBC: 13.1, ALT: 70, AST: 80, AP: 114, Tbili:
0.8.  Rest of Chem7 largely unremarkable
RUQ us showed liver steatosis and normal gallbladder without
cholelithiasis
She was given Zofran, NS, GI cocktail, PPI and admitted to
medicine for further w/u of GI symptoms and LFT abnormalities.

When seen on the floor, pt reports feeling much better.  Still
having some abdominal pain but otherwise n/v/d resolved.  No
longer having chills.
 
Past Medical History:
Hemochromatosis
Internal hemorrhoids
Anxiety
Psoriasis
 
Social History:
___
Family History:
Reviewed and felt to be non-contributory to pt's presentation
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: ___ 1138 Temp: 98.9 PO BP: 101/68 R Lying HR: 57 
RR:
18 O2 sat: 96% O2 delivery: RA 
GENERAL: pleasant, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, NT/ND, normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect

Discharge Physical Exam:
========================
VITALS: 98.4 108/68 64 18 98 RA 
GENERAL: pleasant, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, NT/ND, normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect
 
Pertinent Results:
Admission Labs:
===============
___ 02:25AM BLOOD WBC-13.1* RBC-4.21 Hgb-13.8 Hct-39.8 
MCV-95 MCH-32.8* MCHC-34.7 RDW-11.8 RDWSD-40.8 Plt ___
___ 02:25AM BLOOD Neuts-88.8* Lymphs-5.4* Monos-4.3* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-11.63* AbsLymp-0.70* 
AbsMono-0.56 AbsEos-0.10 AbsBaso-0.03
___ 02:25AM BLOOD Glucose-135* UreaN-11 Creat-0.7 Na-138 
K-4.1 Cl-98 HCO3-23 AnGap-17
___ 02:25AM BLOOD ALT-70* AST-80* AlkPhos-114* TotBili-0.8
___ 02:25AM BLOOD Albumin-4.2 Iron-120

Pertinent Labs:
===============
___ 02:25AM BLOOD calTIBC-317 Ferritn-119 TRF-244

Reports:
========
RUQ US:
Echogenic liver consistent with steatosis. Other forms of liver 
disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 
2. Normal gallbladder. 

CXR:
No focal consolidation.  No free air under the right 
hemidiaphragm.  
Visualized upper abdomen is unremarkable. 

Discharge Labs:
===============
___ 06:58AM BLOOD WBC-6.3 RBC-3.79* Hgb-12.4 Hct-37.2 
MCV-98 MCH-32.7* MCHC-33.3 RDW-12.0 RDWSD-43.6 Plt ___
___ 06:58AM BLOOD Glucose-77 UreaN-5* Creat-0.6 Na-143 
K-4.4 Cl-105 HCO3-23 AnGap-15
___ 06:58AM BLOOD ALT-46* AST-39 AlkPhos-80 TotBili-0.3
___ 06:58AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.5 Mg-2.___ with possible history of hemochromatosis who presented with 
sudden onset abdominal pain, vomiting, and diarrhea likely 
secondary to viral gastroenteritis. She was also found to have 
asymptomatic LFT elevation.

# Viral gastroenteritis:
Presented with abdominal pain (initially diffuse, then more 
localized to RUQ) along with vomiting and diarrhea. Sudden onset 
of symptoms likely consistent with food poisoning vs. viral 
gastroenteritis. There were no gallstones on RUQ US to suggest 
cholelithaisis vs.
choledocholithiasis as an underlying etiology. She remained 
afebrile. Her symptoms rapidly improved and had resolved at time 
of discharge.

# Elevated LFTs:
Presented with mildly elevated ALT/AST/AP. She has no prior LFTs 
in our system. RUQ US showed steatosis with no other obvious
abnormalities. She denied significant alcohol intake, although 
does drink socially in the setting of possible hemochromatosis. 
Elevated LFTs may have been related to acute infection given 
they were downtrending at discharge (AST and AP within normal 
limits, ALT improved to 46 from 70). Of note, she does have a 
history of possible hemochromatosis and should have LFTs 
rechecked as an outpatient to ensure that they have fully 
normalized

# Hemochromatosis:
Reports this was found incidentally and diagnosed abroad. She 
has not
had any treatment for this or had any obvious complications. 
Transferrin saturation was borderline at 49% with a normal 
ferritin of 119. Given borderline transferrin saturation, could 
consider genetic testing as an outpatient

# Anxiety: continued home prn Ativan

Transitional Issues:
====================
- LFTs mildly elevated and RUQ US suggestive of some steatosis. 
She should have LFTs rechecked within one week and consider 
further imaging to evaluate if steatosis has resolved
- she reports a history of hemochromatosis, unclear how this has 
been diagnosed. Transferrin saturation borderline high but 
ferritin normal. Could consider outpatient genetic testing for 
hemochromatosis

> 30 minutes spent on discharge planning and coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcipotriene 0.005% Cream 1 Appl TP BID 
2. LORazepam 0.5 mg PO QHS:PRN anxiety/insomnia 

 
Discharge Medications:
1.  Calcipotriene 0.005% Cream 1 Appl TP BID  
2.  LORazepam 0.5 mg PO QHS:PRN anxiety/insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Viral gastroenteritis
Elevated LFTs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in because you were having abdominal pain as well as 
vomiting and diarrhea. These symptoms were likely due to a 
gastroenteritis. Now that your symptoms have resolved we feel it 
is safe for you to leave the hospital.

While you were here your liver tests were slightly high. These 
have improved, but you should have your liver tests rechecked by 
your primary doctor in the next week to make sure that they 
remain normal.

It was a pleasure taking care of you and we are happy that 
you're feeling better!
 
Followup Instructions:
___